US07846956B2
In a nitrogen atmosphere, 1.25 g of lithium aluminum hydride was suspended in 100 ml of tetrahydrofuran, and a solution of 5.01 g of methyl 1-t-butyl-1H-pyrazole-4-carboxylate in 50 ml of tetrahydrofuran was added dropwise at 0° C. over 30 minutes. Thereafter, the mixture was stirred at room temperature for 7 hours. The reaction mixture was cooled to 0° C. and 10 ml of a 1 mol/L aqueous potassium hydroxide solution was then added dropwise. Produced precipitates were filtered and washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 4.02 g of (1-t-butyl-1H-pyrazol-4-yl)methanol.

reactant | lithium aluminum hydride | 1.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-t-butyl-1H-pyrazole-4-carboxylate | 5.01 g | C(C)(C)(C)N1N=CC(=C1)C(=O)OC | C9H14N2O2
reactant | potassium hydroxide | 1 mol/L | [OH-].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (1-t-butyl-1H-pyrazol-4-yl)methanol | 4.02 g | C(C)(C)(C)N1N=CC(=C1)CO | C8H14N2O
